US04906624
Step 2: Preparation of 2,6-Diethyl-4-(4-fluorophenyl)-5-[[(tetrahydro-2H-pyran-2-yl)oxy]methyl]-3-pyridinecarboxylic acid, methyl ester
A solution of 2,6-diethyl-4-(4-fluorophenyl)-5-(hydroxymethyl)-3-pyridinecarboxylic acid, methyl ester (10.0 g, 0.0315 mol), dihydropyran (4.3 ml, 0.0473 mol) and 6.17 g of p-toluene sulfonic acid was stirred (25° C.) for 24 hours, taken up in dichloromethane (400 ml), washed with saturated NaHCO3 (1×170 ml), washed with brine (1×170 ml), dried (MgSO4), and chromatographed on silica (85:15 hexane:ethyl acetate) to yield 11.1 g of the title compound.

reactant | 2,6-diethyl-4-(4-fluorophenyl)-5-(hydroxymethyl)-3-pyridinecarboxylic acid, methyl ester | 0.0315 mol, 10.0 g | C(C)C1=NC(=C(C(=C1C(=O)OC)C1=CC=C(C=C1)F)CO)CC | C18H20FNO3
reactant | dihydropyran | 0.0473 mol, 4.3 ml | O1CCCC=C1 | C5H8O
reactant | p-toluene sulfonic acid | 6.17 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2,6-Diethyl-4-(4-fluorophenyl)-5-[[(tetrahydro-2H-pyran-2-yl)oxy]methyl]-3-pyridinecarboxylic acid, methyl ester | 11.1 g | C(C)C1=NC(=C(C(=C1C(=O)OC)C1=CC=C(C=C1)F)COC1OCCCC1)CC | C23H28FNO4
